US04963561
To a suspension of 3.03 g 6-(4-aminophenyl)-1,3-dihydro-5-methyl-2H-imidazo[4,5-b]pyridin-2-one hydrochloride and 2 ml triethylamine in 50 ml pyridine cooled in an ice bath was added dropwise 1.86 ml trifluoroacetic anhydride. The reaction mixture was stirred 40 min at 0° C. and then at room temperature for about 20 hours. The reaction mixture was concentrated in vacuo, and the residue was treated with water, filtered, washed with ethanol and ether and dried at 90° C. for 2 hours in high vacuum. The product was recrystallized from acetonitrile-DMF to give 1.18 g 1,3-dihydro-5-methyl-6-[4-(trifluoroacetylamino)phenyl]-2H-imidazo[4,5-b]pyridin-2-one, m.p. above 300° C.

reactant | 6-(4-aminophenyl)-1,3-dihydro-5-methyl-2H-imidazo[4,5-b]pyridin-2-one hydrochloride | 3.03 g | Cl.NC1=CC=C(C=C1)C=1C=C2C(=NC1C)NC(N2)=O
reactant | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 1.86 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 1,3-dihydro-5-methyl-6-[4-(trifluoroacetylamino)phenyl]-2H-imidazo[4,5-b]pyridin-2-one | 1.18 g | CC1=C(C=C2C(=N1)NC(N2)=O)C2=CC=C(C=C2)NC(C(F)(F)F)=O | C15H11F3N4O2
